US05905149
To a solution of 8-hydroxyquinoline-5-carbaldehyde (346 mg, 2 mmol) in acetone (15 ml) anhydrous potassium carbonate (300 mg, 2.2 mmol) and benzylbromide (0.25 ml, 360 mg, 2.1 mmol) were added at 50° C. and the stirring was-continued for other 4 h at this temperature. The solvent was removed under reduced pressure, the residue taken up with dichloromethane, the organic layer washed several times with water, dried (sodium sulfate) and evaporated under vacuum. The residue was chromatographed on silica gel using as eluant ethylacetate/cyclohexane (2:3) to give 290 mg (55% yield) of 8-benzyloxyquinoline-5-carbaldehyde. The above obtained compound (290 mg, 1.1 mmol) was dissolved in ethanol (10 ml), then 2-oxindole (170 mg, 1.28 mmol) and piperidine (0.15 ml) were added and the, mixture maintained for 4 h at about 60° C. After cooling the precipitate was filtered, washed with cold ethanol and dried to give 300 mg (72% yield) of raw 3-(8-benzyloxyquinol-5-ylmethylen)-2-oxindole.

reactant | 8-hydroxyquinoline-5-carbaldehyde | 2 mmol, 346 mg | OC1=CC=C(C=2C=CC=NC12)C=O | C10H7NO2
reactant | acetone | 2.2 mmol, 15 ml, 300 mg | CC(=O)C | C3H6O
reactant | benzylbromide | 2.1 mmol, 0.25 ml, 360 mg | C(C1=CC=CC=C1)Br | C7H7Br
product | 8-benzyloxyquinoline-5-carbaldehyde | 290 mg, 55% yield | C(C1=CC=CC=C1)OC1=CC=C(C=2C=CC=NC12)C=O | C17H13NO2
